US04680300
4(A) 1-(2-Biphenyloxy)-6-chlorohexane
1-Chloro-6-(p-toluenesulphonyloxy)hexane (100 g), 2-hydroxybiphenyl (59 g) and potassium carbonate (60 g) were heated with stirring in dimethylformamide at 70° for 16 hours. The solution was cooled and added to water, then extracted with ether. The extract was washed with water, dried and evaporated, and the residue was chromatographed on silica gel (1800 g) eluting with 99:1 hexane; ethyl acetate, so as to afford the title compound as an oil.

reactant | 1-Chloro-6-(p-toluenesulphonyloxy)hexane | 100 g | ClCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C13H19ClO3S
reactant | 2-hydroxybiphenyl | 59 g | OC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-Biphenyloxy)-6-chlorohexane | C=1(C(=CC=CC1)OCCCCCCCl)C1=CC=CC=C1 | C18H21ClO
